US09233956B2
N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide
The title compound was prepared from N-{3-[(Z)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,5-difluorobenzenesulfonamide (1.5 g, 3.54 mmol), NBS (0.630 g, 3.54 mmol) and 4-morpholinecarbothioamide (0.517 g, 3.54 mmol) by a procedure analogous to Intermediate 9. The title compound was obtained as a yellow solid (1.8 g, 90% yield). ES-LCMS m/z 549.7 (M+H).

reactant | N-{3-[(Z)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,5-difluorobenzenesulfonamide | 3.54 mmol, 1.5 g | ClC1=NC=CC(=N1)\C=C(/O)\C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C18H12ClF2N3O3S
reactant | NBS | 3.54 mmol, 0.630 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 4-morpholinecarbothioamide | 3.54 mmol, 0.517 g | N1(CCOCC1)C(N)=S | C5H10N2OS
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C23H18ClF2N5O3S2
